US06844345B2
b) (R)-10-Methyl-2,3,9,10-tetrahydro-1H,8H-8,10a-diaza-cyclopenta[c]fluoren-7-one
(R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-1,6,7,8-tetrahydro-1-aza-as-indacene-2-carboxylic acid ethyl ester (7.2 g, ˜17 mmol) was dissolved in dichloromethane (110 mL) and treated with trifluoroacetic acid (29 mL) at 0° C. After removal of the ice bath, the solution was stirred for 1 h, and evaporated under reduced pressure. The residue was dissolved in methanol (120 mL); after addition of saturated sodium bicarbonate solution (110 mL) and 2.6 g potassium carbonate the mixture was stirred for 20 h at room temperature. Water (100 mL) was added and the mixture was extracted with dichloromethane (2×100 mL). The organic layer was separated, washed with brine, dried (MgSO4), and evaporated. Crystallization from diethyl ether yielded the title compound as a colorless solid (2.6 g, 57%). EI-MS: m/e 240.2 (M+).

reactant | (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-1,6,7,8-tetrahydro-1-aza-as-indacene-2-carboxylic acid ethyl ester | ˜17 mmol, 7.2 g | C(C)OC(=O)C=1N(C2=C3CCCC3=CC=C2C1)[C@@H](CNC(=O)OC(C)(C)C)C | C22H30N2O4
reactant | trifluoroacetic acid | 29 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 110 mL | ClCCl | CH2Cl2
product | (R)-10-Methyl-2,3,9,10-tetrahydro-1H,8H-8,10a-diaza-cyclopenta[c]fluoren-7-one | 2.6 g, 57% | C[C@H]1N2C=3C4=C(C=CC3C=C2C(NC1)=O)CCC4 | C15H16N2O
